US06887889B2
To a solution of the crude 4-(4-iodo-phenyl)-piperidine-4-carbonitrile (˜4.7 mmol) in ClCH2CH2Cl (100 mL) was added formaldehyde (1.92 mL of a 37% solution in H2O, 23.65 mmol, 5 eq.) and HOAc (1 mL, 1% v/v). The mixture was stirred for 0.5 h at room temperature and then NaBH(OAc)3 (1.48 g, 7 mmol, 1.5 eq.) was added. The reaction mixture was stirred for 16 h and then quenched by the addition of saturated aqueous NaHCO3 solution (50 mL). The resulting mixture was extracted with EtOAc (200 mL) and the organic layer was washed with saturated aqueous NaHCO3 solution (50 mL) and saturated brine (100 mL). The organic layer was dried over anhydrous Na2SO4, filtered and concentrated by rotary evaporation to give the crude 4-(4-iodo-phenyl)-1-methyl-piperidine-4-carbonitrile (1.5 g, 97%) as a brown oil. 1H NMR (300 MHz, CDCl3): δ 7.84 (dd, 2H), 7.36 (dd, 2H), 3.08 (dt, 2H), 2.60 (m, 2H), 2.50 (s, 3H), 2.20 (m, 4H).

reactant | 4-(4-iodo-phenyl)-piperidine-4-carbonitrile | ˜4.7 mmol | IC1=CC=C(C=C1)C1(CCNCC1)C#N | C12H13IN2
reactant | formaldehyde | C=O | CH2O
reactant | HOAc | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 7 mmol, 1.48 g, 1.5 eq. | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | ClCH2CH2Cl | 100 mL | C(CCl)Cl | C2H4Cl2
solvent | H2O | O | H2O
product | 4-(4-iodo-phenyl)-1-methyl-piperidine-4-carbonitrile | 1.5 g, 97% | IC1=CC=C(C=C1)C1(CCN(CC1)C)C#N | C13H15IN2
